US07041690B2
(2Z)-2-(benzoylamiino)-3-(2′-chloro-6-fluoro-1,1′-biphenyl-3-yl)prop-2-enoic acid
A portion of 3-(2-chlorophenyl)4-fluorobenzaldehyde, prepared as described above, is subsequently converted to Z-2-(benzoylamino)-3-(2′-chloro-6-fluoro-1,1′-biphenyl-3-yl)prop-2-enoic acid using steps (d) and (e) previously described for Example 1.

reactant | 3-(2-chlorophenyl)4-fluorobenzaldehyde | ClC1=C(C=CC=C1)C=1C=C(C=O)C=CC1F | C13H8ClFO
reactant | Z-2-(benzoylamino)-3-(2′-chloro-6-fluoro-1,1′-biphenyl-3-yl)prop-2-enoic acid | C(C1=CC=CC=C1)(=O)N\C(\C(=O)O)=C/C=1C=C(C(=CC1)F)C1=C(C=CC=C1)Cl | C22H15ClFNO3
product | (2Z)-2-(benzoylamiino)-3-(2′-chloro-6-fluoro-1,1′-biphenyl-3-yl)prop-2-enoic acid | C(C1=CC=CC=C1)(=O)N(C1=CC=CC=C1)\C(\C(=O)O)=C/C=1C=C(C(=CC1)F)C1=C(C=CC=C1)Cl | C28H19ClFNO3
